US07618983B2
A portion of (S)-methyl 2-pyrrolidone-5-carboylate (3.00 g, 0.021 mol) was dissolved in DCM (105 mL) and treated with trimethyloxonium tetrafluoroborate (3.10 g, 0.021 mol). The mixture was stirred at room temperature for 24 h. The mixture was concentrated in vacuo. The oil was dissolved in DMF (100 mL). Methyl hydrazinocarboxylate (2.00 g, 0.022 mol) was added and the solution was heated to reflux using a Dean-Stark trap for 24 h. The mixture was cooled to room temperature and concentrated in vacuo. The residue was purified by column chromatography (silica gel, using a gradient of DCM:MeOH 95:5 to 90:10) to provide 3-Oxo-2,5,6,7-tetrahydro-3H-pyrrolo[2,1-c][1,2,4]triazole-5-carboxylic acid methyl ester. 1H NMR (300 MHz, CDCl3) δ 4.68-4.72 (m, 1H), 3.82 (s, 3H), 2.75-2.99 (m, 4H); MS (ES+) 184.

reactant | (S)-methyl 2-pyrrolidone-5-carboylate | 0.021 mol, 3.00 g | N1C(CC[C@H]1C(=O)OC)=O | C6H9NO3
reactant | trimethyloxonium tetrafluoroborate | 0.021 mol, 3.10 g | F[B-](F)(F)F.C[O+](C)C
reactant | Methyl hydrazinocarboxylate | 0.022 mol, 2.00 g | N(N)C(=O)OC | C2H6N2O2
solvent | DCM | 105 mL | C(Cl)Cl | CH2Cl2
product | 3-Oxo-2,5,6,7-tetrahydro-3H-pyrrolo[2,1-c][1,2,4]triazole-5-carboxylic acid methyl ester | COC(=O)C1CCC2=NNC(N21)=O | C7H9N3O3
